US06284258B1
Octadecyl S-sorbyl-3-mercaptopropionate (OSM).
Octadecyl S-sorbyl-3-mercaptopropionate-N-acetylcysteamine monoadducts (3 and 4). In a 50-mL round-bottom flask, 181 mg (0.40 mmol) of OSM was dissolved in 10 mL of chloroform, which was purged with nitrogen for 15 minutes prior to use. 30 μL (0.28 mmol) of N-acetylcysteamine and 39 μL (0.28 mmol) of triethylanine were added, and the solution was stirred under reflux in a nitrogen atmosphere for 2 hours. The solvent was evaporated and the mixture of monoadducts was isolated by preparative TLC with 3% methanol in chloroform. Rf=0.66. The isolated monoadducts mixture was spotted onto another preparative TLC plate, and the monoadducts were separated by repetitive developments with 3% methanol in chloroform.

reactant | Octadecyl S-sorbyl-3-mercaptopropionate N-acetylcysteamine | C(\C=C\C=C\C)SCCC(=O)OCCCCCCCCCCCCCCCCCC.C(C)(=O)NCCS
reactant | N-acetylcysteamine | 0.28 mmol, 30 μL | C(C)(=O)NCCS | C4H9NOS
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | Octadecyl S-sorbyl-3-mercaptopropionate | C(\C=C\C=C\C)SCCC(=O)OCCCCCCCCCCCCCCCCCC | C27H50O2S
